US09029371B2
To a solution of 4-benzyl-6-(4-bromo-phenyl)-morpholine (0.55 g; 1.66 mmol) in THF (25 mL) was added drop wise a solution of n-BuLi in hexanes (1.32 ml; 2.50 mol/1; 3.31 mmol), at −78° C. The resulting mixture was stirred at −78° C., for 30 min. and then 2-methyl-benzenesulfonyl fluoride (0.63 g; 3.64 mmol) was added. After complete addition the mixture was allowed to come to room temperature, and treated with EtOAc and a 5% aqueous NaHCO3-solution. The layers were separated and the organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O) to afford 4-benzyl-2-[4-(toluene-2-sulfonyl)-phenyl]-morpholine (0.50 g). The required 2-methyl-benzenesulfonyl fluoride was prepared as follows: To a solution of o-toluenesulfonyl chloride (0.70 mL; 4.85 mmol) in CH3CN (15 mL) was added spray-dried KF (1.13 g; 19.4 mmol). The resulting mixture was stirred at RT for 18 hours, treated with water and extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to afford 2-methyl-benzenesulfonyl fluoride (0.68 g).

reactant | o-toluenesulfonyl chloride | 4.85 mmol, 0.70 mL | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | KF | 19.4 mmol, 1.13 g | [F-].[K+]
reactant | water | O | H2O
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 2-methyl-benzenesulfonyl fluoride | 0.68 g | CC1=C(C=CC=C1)S(=O)(=O)F | C7H7FO2S
